US08957080B2
To a sealed tube was added N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-acetamide (160 mg, 0.36 mmol), tert-butyl N-(1,1-dimethyl-2-oxo-ethyl)carbamate (0.13 mL, 0.54 mmol) piperidine (0.02 mL, 0.18 mmol) and ethanol (4 mL). The tube was capped and heated to 110° C. for 2 hrs. The reaction was cooled and concentrated then dissolved in ethyl acetate (30 mL) and washed with water (30 mL) and brine. The organic layer was dried (MgSO4), filtered and concentrated. The crude material was purified by isolera (25 g column, 2%-7% MeOH/DCM) to obtain 77 mg, (35%) of tert-butyl N-[4-[[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]amino]-3-cyano-1,1-dimethyl-4-oxo-but-2-enyl]carbamate as a solid. MS (pos. ion) m/z: 615 (M+1).

reactant | N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-acetamide | 0.36 mmol, 160 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H](C)NC(CC#N)=O | C23H20FN7O2
reactant | tert-butyl N-(1,1-dimethyl-2-oxo-ethyl)carbamate | 0.54 mmol, 0.13 mL | CC(C=O)(C)NC(OC(C)(C)C)=O | C9H17NO3
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | tert-butyl N-[4-[[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]amino]-3-cyano-1,1-dimethyl-4-oxo-but-2-enyl]carbamate | 35% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H](C)NC(C(=CC(C)(C)NC(OC(C)(C)C)=O)C#N)=O | C32H35FN8O4
